US04797401
(C) 1-(4-Methanesulphonamidophenyl)-4-(4-methanesulphonamidophenethyl)piperazine
1-(4-Aminophenyl)-4-(4-aminophenethyl)piperazine (1.9 g) was dissolved in dry pyridine (15 ml) and methanesulphonyl chloride (1.85 g) was added dropwise with stirring. The mixture was stirred overnight, evaporated to dryness, and the residue triturated with aqueous sodium bicarbonate. The insoluble product was washed with water and digested with ethyl acetate/methanol then cooled and filtered, giving the pure title compound (2.1 g) as a white solid, m.p. 254°-6° (dec.).

reactant | 1-(4-Aminophenyl)-4-(4-aminophenethyl)piperazine | 1.9 g | NC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)N | C18H24N4
reactant | methanesulphonyl chloride | 1.85 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Methanesulphonamidophenyl)-4-(4-methanesulphonamidophenethyl)piperazine | 2.1 g | CS(=O)(=O)NC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)NS(=O)(=O)C | C20H28N4O4S2
